US06451814B1
[4-(4-{2-[(2S)-2-Hydroxy-3-(4-hydroxy-phenoxy)-propylamino]-ethyl}-phenylamino)-piperidin-1-yl]-(1H-indol-3-yl)-methanone
{4-[4-(2-{[(2S)-3-(4-{[tert-Butyl(diphenyl)silyl]oxy}phenoxy)-2-hydroxypropyl]amino}ethyl)anilino]-1-piperidinyl}(1H-indol-3-yl)methanone (0.148 g, 0.182 mmol) was reacted according to Procedure H (eluant: 5:1 chloroform-methanol) to give the title compound (0.087 g, 0.151 mmol).

reactant | {4-[4-(2-{[(2S)-3-(4-{[tert-Butyl(diphenyl)silyl]oxy}phenoxy)-2-hydroxypropyl]amino}ethyl)anilino]-1-piperidinyl}(1H-indol-3-yl)methanone | 0.182 mmol, 0.148 g | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OC1=CC=C(OC[C@H](CNCCC2=CC=C(NC3CCN(CC3)C(=O)C3=CNC4=CC=CC=C34)C=C2)O)C=C1 | C47H54N4O4Si
solvent | chloroform methanol | C(Cl)(Cl)Cl.CO
product | [4-(4-{2-[(2S)-2-Hydroxy-3-(4-hydroxy-phenoxy)-propylamino]-ethyl}-phenylamino)-piperidin-1-yl]-(1H-indol-3-yl)-methanone | 0.151 mmol, 0.087 g | O[C@@H](CNCCC1=CC=C(C=C1)NC1CCN(CC1)C(=O)C1=CNC2=CC=CC=C12)COC1=CC=C(C=C1)O | C31H36N4O4
